US07776910B2
Step 3 2-(3-Methoxy-4-pyrrolidin-3-yl-benzenesulfonyl)-benzonitrile
3-[4-(2-Cyano-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was deprotected following the procedure described in Example 1. The free amine base was converted in the corresponding hydrochloride salt by addition of a small excess of HCl in 1,4-dioxane: MP=247.8-249.1° C.

reactant | 3-[4-(2-Cyano-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)C#N)OC | C23H26N2O5S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-(3-Methoxy-4-pyrrolidin-3-yl-benzenesulfonyl)-benzonitrile | COC=1C=C(C=CC1C1CNCC1)S(=O)(=O)C1=C(C#N)C=CC=C1 | C18H18N2O3S
